US04638067
1.00 g (3.69 mmole) 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-napthyridine-3-carboxylic acid, 40 ml acetonitrile, and 1.27 g (11.08 mmole) N-methyl-3-pyrrolidinemethanamine are stirred at room temperature for three days. The reaction was filtered and the precipitate dissolved in aqueous ammonium hydroxide at pH 11. The solution was filtered and the solvent removed at reduced pressure. The product was washed with 5 ml of water, 10 ml ethanol/ether (1:1), and finally with ether until dry to give 0.571 g of 1-ethyl-6-fluoro-1,4-dihydro-7-[3-[(methylamino)methyl]-1-pyrrolidinyl]-4-oxo-1,8-naphthyridine-3-carboxylic acid, mp 251°-253° C.

reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-napthyridine-3-carboxylic acid | 3.69 mmole, 1.00 g | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C11H8ClFN2O3
reactant | N-methyl-3-pyrrolidinemethanamine | 11.08 mmole, 1.27 g | CNCC1CNCC1 | C6H14N2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 1-ethyl-6-fluoro-1,4-dihydro-7-[3-[(methylamino)methyl]-1-pyrrolidinyl]-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.571 g | C(C)N1C=C(C(C2=CC(=C(N=C12)N1CC(CC1)CNC)F)=O)C(=O)O | C17H21FN4O3
